US08067419B2
In an inert atmosphere trans-4-(trifluoromethyl)-cinnamic acid (6.7 g, 31.2 mmol) was dissolved in DCM (150 mL) and 1-chloro-N,N,2-trimethylpropenylamine (4.7 g, 35.5 mmol) was slowly added via syringe. Stirring was continued for 1 h followed by the addition of DIPEA (10.7 mL, 62.6 mmol) and 2-(4-pentyl-benzylamino)-(S)-3-phenyl-propionic acid methyl ester (7.0 g, 20.8 mmol). Stirring was continued for 45 min. Water (250 mL) was added and the product was extracted with DCM (3×150 mL). The combined organic layers were dried over magnesium sulfate, filtered and the solvent was evaporated under reduced pressure to give the crude product which was purified by column chromatography (silicagel, EtOAc/heptane=¼) to give 6.71 g (59%) of 2-{(4-pentyl-benzyl)-[3-(4-trifluoromethyl-phenyl)-acryloyl]-amino}-(S)-3-phenyl-propionic acid methyl ester. LC-MS: tR=1.21 min; [M+H]+=538.38.

reactant | trans-4-(trifluoromethyl)-cinnamic acid | 31.2 mmol, 6.7 g | FC(C1=CC=C(/C=C/C(=O)O)C=C1)(F)F | C10H7F3O2
reactant | 1-chloro-N,N,2-trimethylpropenylamine | 35.5 mmol, 4.7 g | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | DIPEA | 62.6 mmol, 10.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(4-pentyl-benzylamino)-(S)-3-phenyl-propionic acid methyl ester | 20.8 mmol, 7.0 g | COC([C@H](CC1=CC=CC=C1)NCC1=CC=C(C=C1)CCCCC)=O | C22H29NO2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 250 mL | O | H2O
product | 2-{(4-pentyl-benzyl)-[3-(4-trifluoromethyl-phenyl)-acryloyl]-amino}-(S)-3-phenyl-propionic acid methyl ester | 6.71 g, 59% | COC([C@H](CC1=CC=CC=C1)N(C(C=CC1=CC=C(C=C1)C(F)(F)F)=O)CC1=CC=C(C=C1)CCCCC)=O | C32H34F3NO3
